US06316482B1
A mixture of N-(2-carboxy-4-methylphenyl)-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylamino-benzamide (350 mg), diphenylphosphorylazide (224 mg) and triethylamine (82.5 mg) in dioxane (10 mg) was heated at 80° C. for 6 hours. After evaporation, the residual oil was subjected to silica gel column and the column was eluted with 5% methanol in chloroform. Object fractions were collected and evaporated in vacuo and the residue was solidified from chloroform to give N-(2-amino-4-methylphenyl)-3-methoxy-N-methyl-4-(2-methyl-1-H-benzimidazol-4-yl)carbonylamino-benzamide (280 mg).

reactant | N-(2-carboxy-4-methylphenyl)-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylamino-benzamide | 350 mg | C(=O)(O)C1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)C)OC)=O)C | C26H24N4O5
reactant | diphenylphosphorylazide | 224 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 82.5 mg | C(C)N(CC)CC | C6H15N
solvent | dioxane | 10 mg | O1CCOCC1 | C4H8O2
product | N-(2-amino-4-methylphenyl)-3-methoxy-N-methyl-4-(2-methyl-1-H-benzimidazol-4-yl)carbonylamino-benzamide | 280 mg | NC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)C)OC)=O)C | C25H25N5O3
